US06653334B1
Synthesis of Ethyl 2-(3-Aminocarbonylmethylphenoxy)-2-methylpropionate
3-(1-Ethoxycarbonyl-1-methylethoxy)phenylacetic acid (532 mg, 0.2 mmol) was dissolved in acetonitrile (3 mL). Subsequently, pyridine (0.1 mL, 1.24 mmol) and ammonium hydrogencarbonate (206 mg, 2.6 mmol) were added thereto, and the mixture was stirred for 10 minutes at room temperature. Thereafter, di-tert-butyl dicarbonate [Boc2O (597.2 mL, 2.6 mmol)] was added thereto, and the mixture was stirred for 14 hours. The reaction mixture was concentrated under reduced pressure, and the resultant concentrate was added to water, followed by extraction with chloroform. Subsequently, washing was performed sequentially with 1M hydrochloric acid and saturated brine. The resultant mixture was subjected to drying over magnesium sulfate, concentration under reduced pressure, and purification by silica gel column chromatography (chloroform/methanol=10/1), whereby the target compound was obtained (524 mg, 0.198 mmol, 98.8%).

reactant | 3-(1-Ethoxycarbonyl-1-methylethoxy)phenylacetic acid | 0.2 mmol, 532 mg | C(C)OC(=O)C(C)(OC=1C=C(C=CC1)CC(=O)O)C | C14H18O5
reactant | pyridine | 1.24 mmol, 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydrogencarbonate | 2.6 mmol, 206 mg | C(O)([O-])=O.[NH4+]
reactant | di-tert-butyl dicarbonate | 2.6 mmol, 597.2 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Ethyl 2-(3-Aminocarbonylmethylphenoxy)-2-methylpropionate | NC(=O)CC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C14H19NO4
